US07648983B2
N-((4S)-4-(3-bromo-4-fluorophenyl)-6-(iodomethyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide
To a 0° C. solution of (S)-N-(2-(3-bromo-4-fluorophenyl)-4-methylpent-4-en-2-ylcarbamothioyl)benzamide (1.3 g, 3.0 mmoles, 1.0 equiv) in dichloromethane (40 mL) is added iodine (1.5 g, 5.9 mmoles, 2.0 equiv). The reaction is stirred at 0° C. for 1 h and gradually warmed to room temperature. The reaction mixture is quenched with saturated aqueous sodium thiosulfate. The aqueous layer is extracted with dichloromethane. The combined organic phase is dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (82% yield): MS (m/z): 561, 563 (M+1).

reactant | (S)-N-(2-(3-bromo-4-fluorophenyl)-4-methylpent-4-en-2-ylcarbamothioyl)benzamide | 3.0 mmoles, 1.3 g, 1.0 equiv | BrC=1C=C(C=CC1F)[C@](C)(CC(=C)C)NC(=S)NC(C1=CC=CC=C1)=O | C20H20BrFN2OS
reactant | iodine | 5.9 mmoles, 1.5 g, 2.0 equiv | II | I2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-((4S)-4-(3-bromo-4-fluorophenyl)-6-(iodomethyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide | 82% yield | BrC=1C=C(C=CC1F)[C@]1(N=C(SC(C1)(C)CI)NC(C1=CC=CC=C1)=O)C | C20H19BrFIN2OS
